US09085555B2
B. 3-Difluoromethoxy-2-fluoro-phenylamine
To a mixture of 1-difluoromethoxy-2-fluoro-3-nitro-benzene (2.16 g, 10.43 mmol) and tin(II) chloride (6.92 g, 36.5 mmol) in 2-propanol (100 ml) was added carefully HCl (37%, 10.28 ml, 125 mmol) and the mixture was stirred for 30 min at 110° C. The reaction mixture was cooled to RT, diluted with water and the pH adjusted to 10 by addition of 2N NaOH. The mixture was extracted with EtOAc and the organic layer was dried over Na2SO4, filtered and concentrated to afford the titled compound. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 7.06 (t, 1H), 6.95 (m, 1H), 6.87 (m, 1H), 6.55 (td, 1H), 5.04 (bs, 2H). tR (HPLC conditions f): 1.93 min.

reactant | 1-difluoromethoxy-2-fluoro-3-nitro-benzene | 10.43 mmol, 2.16 g | FC(OC1=C(C(=CC=C1)[N+](=O)[O-])F)F | C7H4F3NO3
reactant | tin(II) chloride | 36.5 mmol, 6.92 g | [Sn](Cl)Cl
reactant | HCl | 125 mmol, 10.28 ml | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
solvent | water | O | H2O
product | 3-Difluoromethoxy-2-fluoro-phenylamine | FC(OC=1C(=C(C=CC1)N)F)F | C7H6F3NO
